US04499094
Operations are carried out as for Example 7, starting from 2.83 g of 1-(2-chloro phenyl) isoquinoline 3-carboxylic acid, 1.15 g of triethylamine, 1.24 g of ethyl chloroformate and 1.46 g of N-methyl cyclohexylamine in 100 ml of chloroform. 2.45 g of N-cyclohexyl N-methyl 1-(2-chloro phenyl) isoquinoline 3-carboxamide melting at 131° C., are obtained.

reactant | 1-(2-chloro phenyl) isoquinoline 3-carboxylic acid | 2.83 g | ClC1=C(C=CC=C1)C1=NC(=CC2=CC=CC=C12)C(=O)O | C16H10ClNO2
reactant | triethylamine | 1.15 g | C(C)N(CC)CC | C6H15N
reactant | ethyl chloroformate | 1.24 g | ClC(=O)OCC | C3H5ClO2
reactant | N-methyl cyclohexylamine | 1.46 g | CNC1CCCCC1 | C7H15N
solvent | chloroform | 100 ml | C(Cl)(Cl)Cl | CHCl3
product | N-cyclohexyl N-methyl 1-(2-chloro phenyl) isoquinoline 3-carboxamide | 2.45 g | C1(CCCCC1)N(C(=O)C=1N=C(C2=CC=CC=C2C1)C1=C(C=CC=C1)Cl)C | C23H23ClN2O
